US07718600B2
(2-Phenyl-ethyl)-triphenylphosphonium bromide (51 b) (PAA 62).
Triphenylphosphine (2.364 g, 9.00 mmol) was added to (2-bromo-ethyl)-benzene (1.496 g, 8.00 mmol) in 35 mL toluene in a 100-mL round-bottom flask. The mixture was heated to reflux under argon and stirred 48 h, then concentrated in vacuo to a thick yellow oil. The oil was dissolved in boiling EtOH under argon. Benzene was added until an oil separated from the solution. The solution was heated under vacuum to remove all solvent and yield 3.6 g (100%) white foam. 1H NMR (CDCl3, 300 MHz) δ 7.67-7.91 (m, 15H), 7.17-7.32 (m, 5H), 4.25 (dt, J=12.6, 7.8 Hz, 2H), 3.08 (dt, J=12.9, 7.8 Hz, 2H).

reactant | Triphenylphosphine | 9.00 mmol, 2.364 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-bromo-ethyl)-benzene | 8.00 mmol, 1.496 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Phenyl-ethyl)-triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H24P.BrH/c1-5-13-23(14-6-1)21-22-27(24-15-7-2-8-16-24,25-17-9-3-10-18-25)26-19-11-4-12-20-26;/h1-20H,21-22H2;1H/q+1;/p-1
